US04284631
A mixture of N-(4-chloromethylbenzyloxy)-phthalimide (18.5 g.) and potassium phthalimide (15.4 g.) in N,N-dimethylformamide (180 ml.) was stirred at 60° C. for 5 hours. The mixture was poured into ice-water and the precipitates were collected by filtration. The precipitates were washed with water and acetone in turn to give N-(4-phthalimidomethylbenzyloxy)-phthalimide (21.0 g.).

reactant | N-(4-chloromethylbenzyloxy)-phthalimide | 18.5 g | ClCC1=CC=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C16H12ClNO3
reactant | potassium phthalimide | 15.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | N-(4-phthalimidomethylbenzyloxy)-phthalimide | 21.0 g | C1(C=2C(C(N1CC1=CC=C(CON3C(C=4C(C3=O)=CC=CC4)=O)C=C1)=O)=CC=CC2)=O | C24H16N2O5
